* source EX1
C_C11         N22453 N22379  1.17u  
C_C5         0 N02948  969.16n  
R_RL2         0 N12334  50  
L_L5         0 N22453  1.2m  
C_C8         N09035 N12085  268.4n  
L_L4         N02938 N02948  1.9116m  
V_V1         N00155 0 DC 0Vdc AC 1Vac 
L_L7         0 N09035  1.34m  
R_RS         N00155 N00164  50  
L_L8         N12085 N12334  4.35m  
R_RL         0 N00194  470  
C_C1         0 N00164  324n  
C_C2         0 N00194  969.16n  
V_V2         N01181 0 DC 0Vdc AC 1Vac 
L_L3         0 N21064  1.2m  
L_L1         N00164 N00194  1.9116m  
R_RS1         N01181 N20890  470  
C_C7         N09035 0  870.9n  
R_RS3         N02948 N22447  470  
V_V3         N02908 0 DC 0Vdc AC 1Vac 
R_RL1         0 N02184  50  
L_L9         0 N12334  1.34m  
C_C10         N21064 N02184  1.17u  
R_RL3         0 N22379  50  
R_RS2         N02908 N02938  50  
C_C9         N12334 0  870.9n  
V_V4         N08955 0 DC 0Vdc AC 1Vac 
C_C6         N22447 N22453  961n  
R_RS4         N08955 N09035  50  
C_C4         0 N02938  324n  
C_C3         N20890 N21064  961n  
