* source EX1
V_V6         N02368 0 DC 0Vdc AC 2Vac 
R_R1         0 N02472  1k  
V_V5         N00346 0 12
R_R2         N00305 N00346  100k  
V_V3         N01388 0  
+SIN 0 1 100k 0 0 0
R_R3         0 N00305  68k  
X_R6         N02472 N02320 N02368 POT PARAMS: SET=0.05 VALUE=100k
Q_Q3         N00346 N00305 N00411 QBF240/PLP 
R_R4         N00472 N00411  10k  
R_R5         0 N00571  10k  
C_C1         N02320 N00305  22u  
Q_Q4         N00472 N00571 0 QBF240/PLP 
C_C2         N00472 N00945  1n  
C_C3         N01388 N00571  100n  
C_C4         0 N00945  1.1n  
L_L1         0 N00945  4m  
