* source EX2
R_R1         N00918 N00344  2.2k  
R_R2         N00872 N00344  2.2k  
R_R3         0 N00149  22k  
C_C1         0 N00149  2.2n  
L_L1         0 N00149  951.55uH  
V_V3         N00872 0  
+SIN 0 5 110k 0 0 0
D_D1         N00344 N00149 D1N4148_1 
V_V2         N00918 0  
+SIN 0 0.8 2k 0 0 0
