* source CIRC
R_R1         0 N21747  3.9k  
Q_Q7         N19272 N19554 N21747 QBF240/PLP 
C_C8         N23053 N21747  10n  
R_R6         0 N25365  330  
C_C12         0 N19554  10n  
C_C14         0 N23053  8.2n  
R_R4         N23053 N05161  3.9k  
L_L1         N19272 N05161  10uH  
C_C9         N25365 N32312  10n  
R_R3         N19554 N05161  22k  
R_R8         N23053 N15373  470  
R_R9         0 N32312  50  
C_C13         N21747 N19272  470p  
V_V1         N05161 0 12
R_R5         0 N23053  8.2k  
C_C10         0 N05161  100n  
R_R2         0 N19554  3.9k  
C_C15         0 N06987  10n  
R_R7         N06987 N05161  100  
Q_Q6         N06987 N15373 N25365 QBF240/PLP 
