* source EX1
.EXTERNAL OUTPUT Ponta
R_R10         N06599 N00492  10Meg  
C_C4         0 N00325  10n  
R_R9         0 PONTA  50  
C_C5         N00350 0  100n  
V_V1         N00350 0 12
C_C6         N03794 0  10n  
C_C7         N01807 PONTA  10n  
R_R1         0 N06599  3.9k  
R_R2         0 N00325  3.9k  
L_L1         N00492 N00350  3.5267uH  
R_R3         N00325 N00350  22k  
C_C8         N06599 N00492  12p  
R_R4         N00896 N00350  3.9k  
Q_Q2         N03794 N03934 N01807 QBF240/PLP 
R_R5         0 N00896  8.2k  
R_R6         0 N01807  330  
R_R7         N03794 N00350  100  
R_R8         N00896 N03934  470  
C_C1         N06599 N00492  470p  
C_C2         N00896 N06599  10n  
Q_Q1         N00492 N00325 N06599 QBF240/PLP 
C_C3         0 N00896  8.2n  
