* source EX5
R_R2         N05322 N04076  2.2k  
R_R4         N05322 N04194  2.2k  
V_V2         N04194 0  
+SIN 0 4 100k 0 0 0
C_C4         0 N04318  2.533n  
L_L1         N04318 0  1mH  
D_D1         N05322 N04318 D1N4148_1 
R_R5         0 N04318  22k  
C_C5         0 N06579  2.533n  
L_L2         N06579 0  1mH  
R_R6         0 N06896  10k  
C_C6         0 N09995  20p  
R_R7         0 N09995  100Meg  
V_V3         N06579 N06896 DC 0Vdc AC 1Vac 
V_V1         N04076 0  
+SIN 0 2 2k 0 0 0
R_R3         N12373 N12305  2.2k  
R_R8         N12373 N12321  2.2k  
V_V4         N12321 0  
+SIN 0 4 100k 0 0 0
D_D2         N12373 N12425 D1N4148_1 
R_R9         0 N12425  22k  
V_V5         N12305 0  
+SIN 0 2 2k 0 0 0
R_R10         N14088 N13940  2.2k  
R_R11         N14088 N13964  2.2k  
V_V6         N13964 0  
+SIN 0 10 100k 0 0 0
C_C7         0 N09995  2.533n  
L_L3         N09995 0  1mH  
D_D3         N14088 N09995 D1N4148_1 
R_R12         0 N09995  22k  
V_V7         N13940 0 DC 0Vdc AC 1Vac 
