* source LAB07
V_V1         N00379 0  
+SIN 0 2 200 0 0 0
V_V2         N01173 0  
+SIN 0 5 100k 0 0 0
R_R1         0 N00275  1k  
R_R2         N00451 VCC  100k  
R_R3         0 N00451  68k  
R_R4         N01848 N01020  10k  
L_L1         N02301 0  1mH  
R_R5         0 N01461  10k  
V_V3         VCC 0 12
C_C4         0 N02301  2.2n  
Q_Q1         VCC N00451 N01020 QBF240/PLP 
C_C1         N00410 N00451  22u  
C_C2         N01173 N01461  100n  
C_C3         N01848 N02301  1n  
Q_Q2         N01848 N01461 0 QBF240/PLP 
X_POT1         N00275 N00410 N00379 POT PARAMS: SET=0.5 VALUE=100k
