* source EX1
R_RS         N00139 N00156  50  
R_RL         0 N00156  470  
L_L1         N00156 0  2u  
C_C1         0 N00156  22n  
V_V1         N00139 0 DC 0Vdc AC 1Vac 
