* source EX2
V_V4         N07427 0  
+PULSE 0.01 0 0 0 0 0.1804m 0.3607m
C_C2         N03529 N03544  22n  
X_U3         N05844 N06884 12 0 N03529 LM741
R_R8         N08820 N08597  220k  
C_C4         N03529 N04007  8.2n  
R_R9         N05844 12  10k  
C_C3         N03600 N03648  1.2n  
R_R6         N04297 N04007  10k  
X_U1         N03529 N03600 12 0 N03648 LM741
X_U4         N03529 N08597 12 0 N08820 LM741
C_C5         N04297 N04258  3.3n  
R_R10         0 N05844  10k  
R_R5         N04007 N04258  10k  
R_R1         N08820 N03544  10k  
R_R7         N08597 N07566  2.2k  
R_R2         N03544 N03648  10k  
R_R12         N04258 0  10k  
V_V3         12 0 12Vdc
X_U2         N03529 N04297 12 0 N04258 LM741
R_R3         N03600 N03544  10k  
R_R4         N04007 N03648  10k  
R_R11         N03529 N06884  10k  
C_C1         N07566 N07427  220n  
