* source EX1
R_R1         N00175 N00168  50  
R_R2         0 N00161  1k  
C_C1         N00168 N00161  1.067n  
L_L1         0 N00161  53.35uH  
V_V1         N00175 0 DC 0Vdc AC 1Vac 
