* source EX2
V_V1         N01437 0 DC 0Vdc AC 1Vac 
C_C2         0 N01832  21.14p  
L_L2         N01832 N01447  23.25u  
R_R1         N01437 N01893  50  
R_R2         0 N01447  1k  
C_C1         0 N01832  968.8p  
L_L1         N01893 N01832  53.28u  
