* source EX3
R_R1         N00824 N00818  50  
R_R2         0 N00834  1k  
C_C2         N00810 N00834  558.17p  
C_C1         N00818 N00810  2.496n  
L_L1         0 N00810  27.9u  
L_L2         0 N00834  124.8u  
V_V1         N00824 0 DC 0Vdc AC 1Vac 
