* source 3221
L_L3         N07307 N06702  6.36m  
R_R7         N08477 0  470  
L_L6         N08463 N08477  2.15m  
V_V4         N09865 0 DC 0Vdc AC 1Vac 
L_L4         0 N05814  908u  
V_V1         N00212 0 DC 0Vdc AC 1Vac 
V_V2         N05800 0 DC 0Vdc AC 1Vac 
V_V3         N08453 0 DC 0Vdc AC 1Vac 
R_R8         N09646 N09865  470  
R_R5         0 N06702  50  
C_C1         0 N00239  364.5n  
C_C10         N09614 N09646  146.68n  
C_C2         0 N00276  1.09u  
C_C11         N09596 N09614  49.03n  
R_R1         N00212 N00239  50  
C_C3         N04380 N05460  146.68n  
R_R9         0 N09596  50  
R_R2         N05460 N00276  470  
C_C4         N03412 N04380  49.03n  
C_C7         0 N06702  1.27u  
L_L7         0 N09614  13.73m  
C_C5         0 N05814  1.27u  
C_C8         0 N08463  364.5n  
L_L1         N00239 N00276  2.15m  
C_C6         N07307 N05814  181n  
C_C9         0 N08477  1.09u  
R_R4         0 N03412  50  
R_R3         N05800 N05814  50  
L_L5         0 N06702  908u  
R_R6         N08453 N08463  50  
L_L2         0 N04380  13.73m  
