* source CIR2
R_R10         0 N07155  10k  
R_R5         N34766 N01112  10k  
R_R7         N22025 N10695  2.2k  
R_R6         N34766 N01151  10k  
X_U1A         N00367 N00474 N02049 0 N00498 LM324
X_U1B         N00367 N01151 N02049 0 N01112 LM324
C_C1         N00367 N00308  22n  
R_R11         N00367 N08245  10k  
R_R8         N10695 N11089  220k  
C_C2         N00474 N00498  1.2n  
V_V6         N22025 0 DC 0Vdc AC 1Vac 
C_C3         N00367 N34766  8.2n  
X_U1D         N07155 N08245 N02049 0 N00367 LM324
C_C4         N01151 N01112  3.3n  
V_V4         N02049 0 12
R_R9         N07155 N02049  10k  
R_R1         N11089 N00308  10k  
R_R2         N00308 N00498  10k  
R_R3         N00308 N00474  10k  
R_R4         N00498 N34766  10k  
X_U2D         N00367 N10695 N02049 0 N11089 LM324
