* source LAB3
V_V3         0 N01193 12Vdc
V_V1         N00223 0 DC 0Vdc AC 1Vac 
C_C1         0 N00261  1.4n  
C_C2         N00240 N00326  1.4n  
R_R1         N00223 N00240  22k  
R_R2         N00240 N00261  22k  
R_R3         N00345 N00326  5.6k  
R_R4         0 N00345  10k  
X_U1         N00261 N00345 N01078 N01193 N00326 LM741
V_V2         N01078 0 12Vdc
