* source LAB3
C_C1         N00322 N00373  1.4n  
C_C2         0 N00322  1.4n  
X_U1         N00322 N00441 12V -12V N00373 LM741
R_R1         N00300 N00311  22k  
R_R2         N00311 N00322  22k  
R_R3         N00441 N00373  5.6k  
R_R4         0 N00441  10k  
V_V2         N00300 0 DC 0Vdc AC 1Vac 
